US06143764
N-(Cyclohexyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [253]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (200 mg) was dissolved in toluene (5 ml) with heat, cyclohexyl isocyanate (340 mg) was added, and the admixture was stirred with heat at 80-90° C. for 30 minutes. After the addition of water, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 210 mg of the title compound (yield: 74%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 200 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | cyclohexyl isocyanate | 340 mg | C1(CCCCC1)N=C=O | C7H11NO
reactant | water | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(Cyclohexyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 210 mg, yield: 74% | C1(CCCCC1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H27N3O4
